US06150373
A mixture of 40 mg (0.096 mmol) of 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one and 1 ml (11 mmol) of aniline was heated at 180° C. for 45 minutes, cooled and partitioned between 30 ml of ethyl acetate and 30 ml of 2M hydrochloric acid. The separated organic phase was dried over magnesium sulfate, filtered and evaporated. The residue was subjected to column chromatography on silica gel using ethyl acetate/hexane (1:2) for the elution. Product-containing fractions were combined and evaporated to give a tan solid which was purified further by HPLC. The mobile phase was water/0.1% trifluoroacetic acid (A) and acetonitrile/0.07% trifluoroacetic acid (B); the gradient was 5%-95% B over 20 minutes; and the product was detected with an ultraviolet detector at a wavelength of 215 nm. The product-containing fraction was lyophilized to give 5 mg (4%) of 7-anilino-3-(2,6-dichlorophenyl)-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 138° C.

reactant | 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.096 mmol, 40 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1=CC=CC=C1)=O | C19H14Cl2N4O3S
reactant | aniline | 11 mmol, 1 ml | NC1=CC=CC=C1 | C6H7N
product | 7-anilino-3-(2,6-dichlorophenyl)-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one | 5 mg, 4% | N(C1=CC=CC=C1)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2Cl)Cl)=O)C2=CC=CC=C2 | C24H17Cl2N5O
